US05731432
A solution of 1.0 mmol of 3-iodo-4-methylbenzoic acid, 1.2 mmol of TsCl, and 25 mmol of Py was stirred for 3 h and then 5 mmol of methylamine hydrochloride was added and stirring continued for 5 h. Chromatography provided N-methyl-(3-iodo-4-methylphenyl)carboxamide.

reactant | 3-iodo-4-methylbenzoic acid | 1.0 mmol | IC=1C=C(C(=O)O)C=CC1C | C8H7IO2
reactant | TsCl | 1.2 mmol | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | methylamine hydrochloride | 5 mmol | Cl.CN
product | N-methyl-(3-iodo-4-methylphenyl)carboxamide | CNC(=O)C1=CC(=C(C=C1)C)I | C9H10INO
